US04737511
4-[3-Amino-4-(2-methyl-1H-imidazol-1-yl)phenyl]-1,5-dihydro-3-methyl-2H-pyrrol-2-one
1,5-Dihydro-3-methyl-4-[4-(2-methyl-1H-imidazol-1-yl)-3-nitrophenyl]-2H-pyrrol-2-one (7.3 g, 24 mmol) and tin (II) chloride dihydrate (28 g, 125 mmol) are combined in ethanol (330 mL), and the mixture is heated at reflux under a nitrogen atmosphere for 30 minutes. The mixture is cooled, made basic with saturated aqueous sodium bicarbonate, and filtered through celite. The filter cake is washed with ethanol, and the filtrates are evaporated. Chromatography of the residue on alumina provides the title compound.

reactant | 1,5-Dihydro-3-methyl-4-[4-(2-methyl-1H-imidazol-1-yl)-3-nitrophenyl]-2H-pyrrol-2-one | 24 mmol, 7.3 g | CC=1C(NCC1C1=CC(=C(C=C1)N1C(=NC=C1)C)[N+](=O)[O-])=O | C15H14N4O3
reactant | tin (II) chloride dihydrate | 125 mmol, 28 g | O.O.[Sn](Cl)Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 330 mL | C(C)O | C2H6O
product | 4-[3-Amino-4-(2-methyl-1H-imidazol-1-yl)phenyl]-1,5-dihydro-3-methyl-2H-pyrrol-2-one | NC=1C=C(C=CC1N1C(=NC=C1)C)C1=C(C(NC1)=O)C | C15H16N4O
